US05304555
2-Butylaminocarbonylpiperazino-5,6-dihydro-7-methyl-6-oxo(7H) pyrrolo[2,3-d]pyrimidine (compound No. 130)
THF (30 ml), 1 ml of triethylamine and 0.43 g (4.34 mmoles) of n-butyl isocyanate were added to 0.5 g (2.14 mmoles) of 2-piperazino-5,6-dihydro-7-methyl-6-oxo(7H)pyrrolo[2,3-d]pyrimidine, and the mixture was stirred at room temperature for 3 hours. It was concentrated under reduced pressure, and after addition of water, extracted with chloroform. The chloroform layer was concentrated under reduced pressure, and the residue purified by silica gel column chromatography to give 0.15 g (yield 21%) of the desired product.

reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | n-butyl isocyanate | 4.34 mmoles, 0.43 g | C(CCC)N=C=O | C5H9NO
reactant | 2-piperazino-5,6-dihydro-7-methyl-6-oxo(7H)pyrrolo[2,3-d]pyrimidine | 2.14 mmoles, 0.5 g | N1(CCNCC1)C=1N=CC2=C(N1)N(C(C2)=O)C | C11H15N5O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 2-Butylaminocarbonylpiperazino-5,6-dihydro-7-methyl-6-oxo(7H) pyrrolo[2,3-d]pyrimidine | 0.15 g, yield 21% | C(CCC)NC(=O)C1N(CCNC1)C=1N=CC2=C(N1)N(C(C2)=O)C | C16H24N6O2
